US08071651B2
b) Bis(3-methoxypropyl) sulphate
A solution of 726.22 mmol of bis(3-methoxypropyl) sulphite in 330 ml of tetrachloromethane, 330 ml of acetonitrile and 830 ml of water is cooled to 15° C., and 18.16 mmol of ruthenium(III) chloride hydrate are added. 1089.34 mmol of sodium periodate are added in small portions, and the reaction mixture is stirred at room temperature overnight. It is diluted with ethyl acetate, and the organic phase is separated off, dried with sodium sulphate and evaporated. The crude title compound is obtained as a beige liquid from the residue and is employed without further purification in the next stage.

reactant | bis(3-methoxypropyl) sulphite | 726.22 mmol | S(=O)(OCCCOC)OCCCOC | C8H18O5S
reactant | sodium periodate | 1089.34 mmol | I(=O)(=O)(=O)[O-].[Na+]
solvent | tetrachloromethane | 330 ml | ClC(Cl)(Cl)Cl | CCl4
solvent | acetonitrile | 330 ml | C(C)#N | C2H3N
solvent | water | 830 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | ruthenium(III) chloride hydrate | 18.16 mmol | O.[Ru](Cl)(Cl)Cl
product | Bis(3-methoxypropyl) sulphate | S(=O)(=O)(OCCCOC)OCCCOC | C8H18O6S
